US07838550B2
Preparation of 4-Chloro-N-[(1S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoro-methyl)propyl]benzenesulfonamide
To a suspension of (2S)-2-amino-4,4,4-tri-fluoro-3-(trifluoromethyl)butan-1-ol (5 g, 20.2 mmol) in isopropyl acetate (50 mL) was added 4-methyl morpholine (5 mL, 45.5 mmol). The mixture was stirred at 20 to 25° C. for 5 to 10 minutes and then 4-chlorobenzenesulfonyl chloride (4.5 g, 21.3 mmol) was added. The reaction mixture was stirred at 20 to 25° C. for 6 to 18 hours. Water (25 mL) was added to the reaction mixture and the solid dissolved. The two layers were separated, the organic layer was washed with 10% NaHCO3 (25 mL) and 10% NaCl (25 mL), and heptane (50 mL) was added to the isopropyl acetate layer (about 50 mL). The mixture was reduced in volume by about half by distillation at atmospheric conditions. While the solution remained at 80 to 90° C., heptane (50 mL) was added over 5 to 10 minutes. A solid began to form during heptane addition. After addition, the mixture was cooled to 20 to 25° C., the solution was stirred for 1 to 2 hours, and then further cooled to 5 to 10° C. for 1 hours. The solid was collected by filtration, washed with heptane (15 mL), and oven-dried to give 6.44 g (83%) of an off-white solid. 98% area HPLC purity.

reactant | (2S)-2-amino-4,4,4-tri-fluoro-3-(trifluoromethyl)butan-1-ol | 20.2 mmol, 5 g | N[C@H](CO)C(C(F)(F)F)C(F)(F)F | C5H7F6NO
reactant | 4-methyl morpholine | 45.5 mmol, 5 mL | CN1CCOCC1 | C5H11NO
reactant | 4-chlorobenzenesulfonyl chloride | 21.3 mmol, 4.5 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Water | 25 mL | O | H2O
solvent | isopropyl acetate | 50 mL | C(C)(=O)OC(C)C | C5H10O2
product | 4-Chloro-N-[(1S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoro-methyl)propyl]benzenesulfonamide | 6.44 g, 83% | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C(F)(F)F)C(F)(F)F)CO | C11H10ClF6NO3S
